US07812024B2
Step A. Preparation of (R)-2-benzyl-9-isopropenyl-1,2,3,4,11,11a-hexahydro-pyrazino[1,2-b]isoquinolin-6-one
A degassed mixture of (R)-2-benzyl-9-bromo-1,2,3,4,11,11a-hexahydro-pyrazino[1,2-b]isoquinolin-6-one with (R)-2-benzyl-7-bromo-1,2,3,4,11,11a-hexahydro-pyrazino[1,2-b]isoquinolin-6-one (9-Br:7-Br=11:2, 100 mg, 0.27 mmol), isopropenyl boronic acid (46 mg, 0.54 mmol), tetrakis(triphenylphosphine)palladium (16 mg, 0.013 mmol) and K2CO3 (82 mg, 0.59 mmol) in DME (2 mL) and water (0.6 mL) was heated at 80° C. for 9 h to give dark brownish reaction mixture. The mixture was then cooled, quenched with 10 mL of water, extracted with ethyl acetate (3×10 mL), dried over MgSO4, and concentrated in vacuo to give the desired product as brown oil (No 7-isomeric product was observed).

reactant | (R)-2-benzyl-9-bromo-1,2,3,4,11,11a-hexahydro-pyrazino[1,2-b]isoquinolin-6-one | C(C1=CC=CC=C1)N1C[C@@H]2N(C(C=3C=CC(=CC3C2)Br)=O)CC1 | C19H19BrN2O
reactant | (R)-2-benzyl-7-bromo-1,2,3,4,11,11a-hexahydro-pyrazino[1,2-b]isoquinolin-6-one | 0.27 mmol, 100 mg | C(C1=CC=CC=C1)N1C[C@@H]2N(C(C=3C(=CC=CC3C2)Br)=O)CC1 | C19H19BrN2O
reactant | isopropenyl boronic acid | 0.54 mmol, 46 mg | C(=C)(C)B(O)O | C3H7BO2
reactant | K2CO3 | 0.59 mmol, 82 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DME | 2 mL | COCCOC | C4H10O2
solvent | water | 0.6 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.013 mmol, 16 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (R)-2-benzyl-9-isopropenyl-1,2,3,4,11,11a-hexahydro-pyrazino[1,2-b]isoquinolin-6-one | C(C1=CC=CC=C1)N1C[C@@H]2N(C(C=3C=CC(=CC3C2)C(=C)C)=O)CC1 | C22H24N2O
